US07018988B2
(2S,4EZ)-N-[2-(diethylamino)ethyl]-1-(diphenylacetyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, diphenylacetyl chloride, and N1,N1-diethyl-1,2-ethanediamine the title compound was obtained in 56% purity by LC/MS. MS(ESI+): m/z=557.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC=C(C=C1)OC)C(=O)O | C18H24N2O6
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | N1,N1-diethyl-1,2-ethanediamine | C(C)N(CCN)CC | C6H16N2
product | (2S,4EZ)-N-[2-(diethylamino)ethyl]-1-(diphenylacetyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxamide | C(C)N(CCNC(=O)[C@H]1N(CC(C1)=NOCC1=CC=C(C=C1)OC)C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC | C33H40N4O4
